US04616084
EXAMPLE 37 tert.-Butyl 4-benzyloxy-2-diazo-3-oxo-butanoate
5,54 ml (40 mmols--2 equivalents) of triethylamine was added dropwise to a solution, cooled to 0° C., of 5,29 g (20 mmols) of tert.-butyl 4-benzyloxyacetoacetate and 4,34 g. (22 mmols) of 4-toluenesulphonyl azide in 40 ml of anhydrons acetonitrile. The mixture was stirred for 30 minutes at 0° C., treated with 8 g of Celite and evaporated in vacuo. Chromatography of the residue on 100 g of silica gel (toluene:ethyl acetate 95:5) yielded 3,98 g of the title compound as colorless crystals, melting point: 68° C., RF : 0,31 (toluene:ethyl acetate 95:5).

reactant | triethylamine | 5,54 ml | C(C)N(CC)CC | C6H15N
reactant | tert.-butyl 4-benzyloxyacetoacetate | 20 mmols, 5,29 g | C(C1=CC=CC=C1)OCC(CC(=O)OC(C)(C)C)=O | C15H20O4
reactant | 4-toluenesulphonyl azide | 22 mmols | C1(=CC=C(C=C1)S(=O)(=O)N=[N+]=[N-])C | C7H7N3O2S
solvent | acetonitrile | C(C)#N | C2H3N
product | tert.-Butyl 4-benzyloxy-2-diazo-3-oxo-butanoate | 3,98 g | C(C1=CC=CC=C1)OCC(C(C(=O)OC(C)(C)C)=[N+]=[N-])=O | C15H18N2O4
